US06528510B1
2-(3,5-Dibromo-thiophen-2-yl)-propan-2-ol
A solution of 2,3,5-tribromothiophene (8.17 g, 25 mmol) in Et2O (N2 atmosphere) was cooled to −78° C. and treated with a 1.6 M hexane solution of nBuLi (15.6 mL, 25 mmol). The mixture was then stirred for 10 minutes, then treated with acetone (1.84 mL, 25 mmol). The mixture was then stirred for 30 minutes and quenched with H2O. The mixture was extracted with Et2O; the organic layers were combined, dried (MgSO4), and the solvent removed in vacuo. The residue was filtered through a plug of silica gel (gradient elution from hexanes to EtOAc) to provide the title compound.

reactant | 2,3,5-tribromothiophene | 25 mmol, 8.17 g | BrC=1SC(=CC1Br)Br | C4HBr3S
reactant | hexane | 1.6 M | CCCCCC | C6H14
reactant | nBuLi | 25 mmol, 15.6 mL | [Li]CCCC
reactant | acetone | 25 mmol, 1.84 mL | CC(=O)C | C3H6O
solvent | Et2O | CCOCC | C4H10O
product | 2-(3,5-Dibromo-thiophen-2-yl)-propan-2-ol | BrC1=C(SC(=C1)Br)C(C)(C)O | C7H8Br2OS
